US07572809B2
Similar procedure as described in example 10 was used, starting from (1-chloro-6-methoxy-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine and phenol to give (6-methoxy-1-phenoxy-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine. LC-MS m/e 333(MH+).

reactant | (1-chloro-6-methoxy-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=CC(=CC=C12)OC)NC1=NNC=C1 | C13H11ClN4O
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
product | (6-methoxy-1-phenoxy-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine | COC=1C=C2C=C(N=C(C2=CC1)OC1=CC=CC=C1)NC1=NNC=C1 | C19H16N4O2
